US06288082B1
1-(2-chloro-4-aminobenzyl)-1H-imidazole
A solution of 10 g of 4-bromomethyl-3-chloro nitrobenzene and 5.44 g of imidazole in 125 ml of tetrahydrofuran was refluxed for 4 hrs. The solvent was removed and the residue was dissolved in ethyl acetate. The solution was washed with water and dried over magnesium sulfate. The solvent was removed and the residue was extracted several times with ether. The ether extracts were diluted with two volumes of hexanes. 1-(2-Chloro-4-nitrobenzyl)-1H-imidazole (4.3 g) crystallized as a white solid. A 4 g portion of this material was mechanically stirred at reflux with 153 ml of methanol, 52 ml of water, 8.1 g of ammonium chloride, and 6.6 g of iron powder for 2 hrs. The hot mixture was filtered and solids were washed with hot methanol-tetrahydrofuran mixtures. Solvents were removed from the combined filtrates. The residue was extracted several times with hot ethyl acetate, The ethyl acetate solution was treat with magnesium sulfate and activated charcoal. Filtering and removing the solvent gave the 3.9 g of the title compound.

reactant | 4-bromomethyl-3-chloro nitrobenzene | 10 g | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | imidazole | 5.44 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-4-aminobenzyl)-1H-imidazole | 3.9 g | ClC1=C(CN2C=NC=C2)C=CC(=C1)N | C10H10ClN3
